US08138187B2
4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butanoic acid hydrochloride, 1 diastereomer (171)
4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butanoic acid (260 mg, 0.6 mmol) was dissolved in ethyl acetate (50 ml). Me3SiCl (153 μl, 1.2 mmol) was then added dropwise at RT and the mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl acetate (2×5 ml) and then dried. Example 171 (197 mg, m.p. 90-93° C., 70%) was obtained as a white solid (purity <95%).

reactant | 4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butanoic acid | 0.6 mmol, 260 mg | C(C1=CC=CC=C1)C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCC(=O)O)N(C)C | C27H34N2O2
reactant | Me3SiCl | 1.2 mmol, 153 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-(4-Benzyl-4-(dimethylamino)cyclohexyl)-1H-indol-3-yl)butanoic acid hydrochloride | Cl.C(C1=CC=CC=C1)C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCC(=O)O)N(C)C | InChI=1S/C27H34N2O2.ClH/c1-29(2)27(19-20-9-4-3-5-10-20)17-15-21(16-18-27)26-23(12-8-14-25(30)31)22-11-6-7-13-24(22)28-26;/h3-7,9-11,13,21,28H,8,12,14-19H2,1-2H3,(H,30,31);1H
